US05491144
4-(N-Methyl-N-phenylamino)-5-anilino-phthalimide
Analogously to Example 1, 160 mg (0.41 mmol) of 4-(N-methyl-N-phenylamino)-5-anilinophthalic acid dimethyl ester in 12 ml of ethylene glycol are heated at 120° and, with stirring, ammonia gas is passed through the mixture for 18 hours. The reaction mixture is cooled and extracted with ethyl acetate. The ethyl acetate phases are washed in succession three times with water and once with saturated sodiumchloride solution, dried with sodium sulfate and concentrated by evaporation. The evaporation residue is chromatographed on silica gel withhexane/ethyl acetate 1:1 and the product fractions are combined and concentrated by evaporation, yielding the title compound in the form of slightly yellow crystals, FAB-MS: 344 [M+ +H], 1H-NMR (CDCl3): 3.28 (s, 3H).

reactant | 4-(N-methyl-N-phenylamino)-5-anilinophthalic acid dimethyl ester | 0.41 mmol, 160 mg | COC(C=1C(C(=O)OC)=CC(=C(C1)NC1=CC=CC=C1)N(C1=CC=CC=C1)C)=O | C23H22N2O4
reactant | ammonia | N | H3N
solvent | ethylene glycol | 12 ml | C(CO)O | C2H6O2
product | 4-(N-Methyl-N-phenylamino)-5-anilino-phthalimide | CN(C1=CC=CC=C1)C=1C=C2C(C(=O)NC2=O)=CC1NC1=CC=CC=C1 | C21H17N3O2
